US04053609
9.2 g (50 millimoles) of DL-2-amino-3-methoxycarbonyl-propionic acid hydrochloride (i.e., DL-aspartic acid O62 -methyl ester HCl), 10.5 g of o-nitrophenylsulfenyl chloride, 50 ml of water, 70 ml of tetrahydrofuran and 24.3 g of potassium carbonate are treated in the same manner as described in Example 1-(1). 9.8 g of DL-2-(o-nitrophenylsulfenylamino)-3-methoxycarbonyl-propionic acid are obtained. M.p. 108°- 109° C.

reactant | 2-amino-3-methoxycarbonyl-propionic acid hydrochloride | Cl.NC(C(=O)O)CC(=O)OC
reactant | o-nitrophenylsulfenyl chloride | 10.5 g | [N+](=O)([O-])C1=C(C=CC=C1)SCl | C6H4ClNO2S
reactant | water | 50 ml | O | H2O
reactant | potassium carbonate | 24.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 2-(o-nitrophenylsulfenylamino)-3-methoxycarbonyl-propionic acid | [N+](=O)([O-])C1=C(C=CC=C1)SNC(C(=O)O)CC(=O)OC | C11H12N2O6S
